US04472433
A mixture of iron powder (5 g.), ammonium chloride (0.5 g.), ethanol (40 ml.) and water (20 ml.) and a solution of N,N-diethyl-2-[2-nitro-3-(2-fluorophenoxy)phenyl]acetamide (5.1 g.) in ethanol (5 ml.) were treated in a similar manner to that of Example 1-(1) [extraction solvent: ethyl acetate] to give oily N,N-diethyl-2-[2-amino-3-(2-fluorophenoxy)phenyl]acetamide (4.6 g.). This substance was dissolved in a mixture of methanol and hydrochloric acid. The solution was evaporated and the residue was pulverized with ethyl acetate. The resultant product (4.15 g.). was recrystallized from a mixture of ethanol and ethyl acetate to give white needles of the captioned compound (2.95 g.). mp 159° to 160° C.

reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | water | 20 ml | O | H2O
reactant | N,N-diethyl-2-[2-nitro-3-(2-fluorophenoxy)phenyl]acetamide | 5.1 g | C(C)N(C(CC1=C(C(=CC=C1)OC1=C(C=CC=C1)F)[N+](=O)[O-])=O)CC | C18H19FN2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | iron | 5 g | [Fe] | Fe
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N,N-diethyl-2-[2-amino-3-(2-fluorophenoxy)phenyl]acetamide | 4.6 g | C(C)N(C(CC1=C(C(=CC=C1)OC1=C(C=CC=C1)F)N)=O)CC | C18H21FN2O2
